US07271276B2
Synthesis of N-(2-diphenylphosphinophenyl)-2,6-diisopropylaniline, H[NP].
A 250-mL Schlenk flask equipped with a condenser was flashed with nitrogen thoroughly. To this flask was added KPPh2 (73 mL, 0.5 M in THF solution, Aldrich, 36.9 mmol). THF was removed in vacuo and a solution of N-(2-fluorophenyl)-2,6-diisopropylaniline (10 g, 36.9 mmol) in 1,4-dioxane (40 mL) was added with a syringe. The transparent, ruby reaction solution was heated to reflux for 5 d, during which time the reaction condition was monitored by 31P {1H} NMR spectroscopy. All volatiles were removed from the resulting orange solution under reduced pressure and degassed deionized water (100 mL) was added. The product was extracted with deoxygenated dichloromethane (100 mL). The dichloromethane solution was separated from the aqueous layer, from which the product was further extracted with dichloromethane (20 mL×2). The combined organic solution was dried over MgSO4 and filtered. All volatiles were removed in vacuo to yield the product as pale yellow oil. The product was purified by washing it with boiling EtOH (10 mL×4) until it became white powder; yield 15.2 g (94%). 1H NMR (CDCl3, 200 MHz) δ 7.39 (m, 10, PC6H5), 7.0-7.22 (m, 4, Ar), 6.82 (m, 1, Ar), 6.65 (t, 1, Ar), 6.15 (m, 1, Ar), 5.95 (d, 1, JHP=8, NH), 2.90 (septet, 2, CHMe2), 1.06 (d, 6, CHMe2), 0.94 (d, 6, CHMe2). 1H NMR (C6D6, 200 MHz) δ 7.48 (m, 4, Ar), 6.60-7.15 (m, 10, Ar), 6.92 (m, 1, Ar), 6.59 (t, 1, Ar), 6.34 (m, 1, Ar), 6.26 (d, 1, JHP=8, NH), 3.13 (septet, 2, CHMe2), 1.09 (d, 6, CHMe2), 0.97 (d, 6, CHMe2). 31P{1H} NMR (C6D6, 202 MHz) δ−20.11. 31P{1H} NMR (Et2O, 121.5 MHz) δ−19.87. 31P{1H} NMR (CDCl3, 121.5 MHz) δ−20.17. 13C NMR (CDCl3, 75.3 MHz) δ 150.57 (J=17.1), 147.41, 135.35, 135.26, 135.24, 133.93 (JCP=19.6), 130.28, 128.92, 128.47 (JCP=7.5), 127.14, 123.70, 118.71, 117.63, 111.60, 28.18 (CHMe2), 24.40 (CHMe2), 23.03 (CHMe2). Anal. Calcd. for C30H32NP: C, 82.35; H, 7.37; N, 3.20. Found: C, 82.32; H, 7.36; N, 3.28.

reactant | KPPh2 | 36.9 mmol, 0.5 M, 73 mL | C1=CC=C(C=C1)[P-]C2=CC=CC=C2.[K+]
reactant | N-(2-fluorophenyl)-2,6-diisopropylaniline | 36.9 mmol, 10 g | FC1=C(C=CC=C1)NC1=C(C=CC=C1C(C)C)C(C)C | C18H22FN
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | N-(2-diphenylphosphinophenyl)-2,6-diisopropylaniline | C1(=CC=CC=C1)P(C1=C(C=CC=C1)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=CC=C1 | C30H32NP
